US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxamide
Using 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylic acid (175 mg, 0.84 mmol), N,N-dimethylformamide (1 drop), oxalyl chloride (91 μL, 1.01 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.646 mmol), triethylamine (196 mg, 1.94 mmol) and tetrahydrofuran (15 mL) as starting materials and in the same manner as in Example 109, the title compound (281 mg, 87%) was obtained as a white powder.

reactant | 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylic acid | 0.84 mmol, 175 mg | CC1=NN(C(=C1)C(=O)O)CC(F)(F)F | C7H7F3N2O2
reactant | oxalyl chloride | 1.01 mmol, 91 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.646 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | triethylamine | 1.94 mmol, 196 mg | C(C)N(CC)CC | C6H15N
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxamide | 281 mg, 87% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2CC(F)(F)F)C)C1 | C23H20F3N7O3
